US04060543
Example 3 is carried out with an equal amount of 3-pentenonitrile in place of 4-pentenonitrile, and with the methanol replaced by 25 parts of cyclohexanol, the mixture is heated to 160° C, and the autoclave is shaken for 4 hours, under a final pressure of 260 bars. 9.9 parts of 5-cyanovaleric acid cyclohexyl ester (47.3% of theory) of boiling point 124.5°-125.5° C/0.5 mm Hg, nD20 = 1.4598, are obtained.

reactant | 3-pentenonitrile | C(CC=CC)#N | C5H7N
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
reactant | methanol | CO | CH4O
product | 5-cyanovaleric acid cyclohexyl ester | 47.3% | C1(CCCCC1)OC(CCCCC#N)=O | C12H19NO2
